3
M0102 1 2 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0201 2 1 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0102 1 2 3 3 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0201 2 1 3 3 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
I0001 0 1 1 0 1E-7
V0300 3 0 0 0 5
.AC OCT 10 1E5 10E9
