5
R0100 1 0 10000
C0100 1 0 10E-12
Q0200 2 0 0 100 1000 0 0 100E-12 10E-12
Q0100 1 0 0 100 1000 0 0 100E-12 10E-12
Q0300 3 0 2 100 1000 0 0 100E-12 10E-12
Q0405 4 5 2 100 1000 0 0 100E-12 10E-12
Q0303 3 3 0 100 1000 0 0 100E-12 10E-12
Q0403 4 3 0 100 1000 0 0 100E-12 10E-12
Q0104 1 4 0 100 1000 0 0 100E-12 10E-12
V0500 5 0 1
.AC DEC 100 1 10E9
