4
R0102 1 2 1
R0302 3 2 1
L0402 4 2 1
L0300 3 0 1.59155077524438E-1
C0400 4 0 2.533033870181E-2
C0100 1 0 1.59155077524438E-1
VIN 2 0 1 0
.AC DEC 100 0.1 10
