8
R0100 1 0 1
R0203 2 3 1
R0405 4 5 1
R0604 6 4 1
R0704 7 4 1
L0804 8 4 1
L0700 7 0 1.59155077524438E-1
C0800 8 0 2.533033870181E-2
C0600 6 0 1.59155077524438E-1
M0502 5 2 1 1 0
VIN 4 0 1 0
V0300 3 0 1
.AC DEC 100 0.1 10
